Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Ampicillin / cefuroxime / Gadolinium-Containing 
Contrast Media / gluten / nadolol / Pneumovax 23 / levofloxacin
 
Attending: ___.
 
Chief Complaint:
fever, PSC 
 
Major Surgical or Invasive Procedure:
___ Living donor liver transplant recipient.
___ Compartment syndrome, resolved by opening of the abdomen 
and placing a wound VAC.
___, liver bx, portal vein stent, variceal embo
___ Exploratory laparotomy with abdominal closure
___ Gravity cholangiogram
___ Transjugular liver biopsy, dilation of right hepatic 
vein

 
History of Present Illness:
 ___ yo woman with h/o PSC c/b recurrent cholangitis, celiac, 
HTN, and planned living donor liver transplant on ___ who 
presents as a direct admit from home with fever to 100.6.  
 She states that around 12:30 pm today she felt achy and usually 
that's a sign that something is wrong. So, she checked her temp 
and it was 99.3. A few hours, around 4pm, later had chills and 
temp was 100.6. She called her hepatologist's office and they 
told her to come into the hospital. No fevers or chills since 
4PM. She endorses increased fatigue and loose stools since she 
started her liquid diet today in preparation for surgery 
___. She also states that her intermittent RUQ stabbing pain 
is still there occasionally but that this doesn't feel like her 
recurrent cholangitis.  
 Of note she is on daily Ertapenem since her last discharge and 
had a PICC placed for that. She has not noticed any pain, 
swelling or erythema in the PICC arm (Right) and has not had any 
complications with previous PICCs (has had 21 PICCs - says "my 
PICCs are now old enough to drink"). She is also on PO vanc for 
c-diff that was reduced to BID after 2 week course. She has not 
noticed any change in her stools with the decreased dose.  
 Denies CP, SOB, constipation, recent illness/URI symptoms, no 
cough or sick contacts, no abd pain currently. She does note 
very mild ___ swelling since she missed doses of home meds this 
afternoon and that her weight is up from her home scale this AM 
of 158 lbs (without clothes) to 166 on our scale (with clothes 
and shoes). No alcohol/drugs/tobacco.  
 
Past Medical History:
-Primary sclerosing cholangitis (PSC)
-History of recurrent cholangitis with no positive culture data 
-___ Laparoscopic cholecystectomy with liver biopsy showing 
bile ductular proliferation and very focal early, incomplete 
nodule formation (stage ___ fibrosis)
-Celiac sprue (diagnosed by biopsy, slightly elevated tTG) 
-Hypertension
-GERD  
-Hypothyroidism 
-History of OSA (formerly on CPAP but since weight loss has not 
required CPAP)
-Possible Colitis (no diagnosis of UC) 
 
Social History:
___
Family History:
Daughter has ___ disease. The patient denies a history of 
premature cardiac disease such as MI, arrhythmia or sudden 
cardiac death. No history of liver disease. Sister with 
endometrial cancer and thyroid condition. Other sister and a 
brother with thyroid condition. Father with CAD, DM. Mother with 
thyroid disease and peritoneal cancer.
 
Physical Exam:
ADMISSION:
 VITAL SIGNS - 99.1, 129/66, 77, 18, 100% RA  
 GENERAL - well appearing woman in NAD  
 HEENT - PERRL, EOMI, sclera anicteric, MMM  
 CARDIAC - RRR, normal S1/S2, ___ holosystolic murmur best 
appreciated at apex  
 PULMONARY - very mild bibasilar crackles, otherwise clear 
without wheeze.  
 ABDOMEN - soft, nondistended, mild RUQ tenderness to palpation, 
otherwise nontender and normal BS.  
 GENITOURINARY - no foley  
 EXTREMITIES - WWP, DP pulses +2 bilaterally, trace edema at 
ankles  
 SKIN - no jaundice or rash  
 NEUROLOGIC - A&O x4, CN II-XII grossly intact  
 PSYCHIATRIC - mood/affect appropriate.  
.
Discharge Exam:
VS98.4,m 72, 129/77, 18, 96% RA
General: Looks well, alert and oriented
Card: RRR
Lungs: CTA, no respiratory distress
Abd: Wound VAC in place over granulating incision, Broviac drain 
(capped) in place. Abdomen slightly distended, soft, non-tender
GU: No foley, adequate urine output
Extr: Sl pedal edema, warm and well perfused
Skin: no jaundice or rash
.
Weight at discharge: 70.7 kg

 
Pertinent Results:
ADMISSION LABS:
___ 10:30PM BLOOD WBC-5.6 RBC-3.27* Hgb-8.7* Hct-27.7* 
MCV-85 MCH-26.6 MCHC-31.4* RDW-16.2* RDWSD-50.9* Plt ___
___ 10:30PM BLOOD Neuts-71.3* Lymphs-11.6* Monos-13.9* 
Eos-2.3 Baso-0.7 Im ___ AbsNeut-4.01 AbsLymp-0.65* 
AbsMono-0.78 AbsEos-0.13 AbsBaso-0.04
___ 10:30PM BLOOD ___ PTT-36.5 ___
___ 10:30PM BLOOD Glucose-100 UreaN-9 Creat-0.7 Na-133 
K-4.1 Cl-97 HCO3-27 AnGap-13
___ 10:30PM BLOOD ALT-32 AST-42* LD(LDH)-326* AlkPhos-293* 
TotBili-2.3*
___ 10:30PM BLOOD Albumin-3.7 Calcium-9.0 Phos-3.2 Mg-2.1

Discharge Labs: ___
WBC-5.4 RBC-2.49* Hgb-7.1* Hct-24.3* MCV-98 MCH-28.5 MCHC-29.2* 
RDW-19.2* RDWSD-68.0* Plt ___ PTT-33.7 ___
Glucose-95 UreaN-24* Creat-0.5 Na-138 K-4.9 Cl-99 HCO3-27 
AnGap-17
ALT-85* AST-45* AlkPhos-220* TotBili-1.5
Calcium-8.4 Phos-4.7* Mg-2.0
tacroFK-6.___ with h/o Celiac disease, HTN, and PSC complicated by 
recurrent cholangitis who was pre-admitted to ___ to the 
Medicine service with temperature of 100.6. She was already 
scheduled for planned living donor liver transplant on ___.  
On admission, she was continued on antibiotics which included 
meropenem and micafungin (based on past culture data) as well as 
PO vancomycin as continued therapy for recent C difficile 
infection. She remained afebrile until her operation. Blood and 
urine cultures were negative. 

On ___, the patient underwent living donor liver transplant. 
Please see operative report for further details. She required no 
blood products intra-op and remained intubated for admission to 
the SICU post-op. Immediately post-op, she became 
hemodynamically unstable requiring increased doses of pressors 
but her hematocrit was stable. A hepatic duplex demonstrated 
patency of all vascular anastomoses but absence of blood flow 
through the portal vein which necessitated immediate return to 
the operating room for exploration. Compartment syndrome 
resolved by opening of the abdomen and placing a wound VAC. The 
next day on ___, LFTs increased significantly and INR was 
elevated. She was taken back to the OR by Dr. ___ for 
dysfunctional liver and question of portal venous steal syndrome 
and probable immunologic rejection of liver graft with 
dysfunction. Intraop ultrasound was done showing that there was 
reversal of flow in the portal vein. Given concern for immune 
response contributing to edema and affect on blood flow, a 
sheath was placed in the mesenteric vein and ___ then performed a 
trans-mesenteric portosystemic shunt occlusion and main portal 
veins stenting with restoration of hepatopetal flow into the 
transplanted liver on ___. A liver biopsy was also 
performed. Postop liver duplex on ___ demonstrated normal 
appearance of the right lobe liver with the portal venous flow 
returned  to hepatopetal with a normal Doppler waveforms.  A 
heparin drip was started post ___ procedure. 
  

Given concern for immune process, she was given 3 doses of 
Thymoglobulin (75mg each dose on ___. ALT/AST improved 
with increased T.bili 9.1. Biopsy findings were consistent with 
ischemic findings. 

On ___, she returned to the OR for abdominal closure. The 
next day, she exhibited signs of seizure activity. Neuro consult 
was obtained and an EEG was done. This showed findings 
consistent with encephalopathy. CT showed no intracranial 
process and Keppra was started. Head MRI was then done which was 
negative for PRES.

LFTs remained elevated. Repeat liver duplex demonsrated right 
hepatic vein stenosis. She was placed on a two week course of 
Vanco and ___ for concern for cholangitis. LFTs improved. On  

A post pyloric feeding tube was placed for malnutrition and free 
water flushes were given for hypernatremia with improvement. The 
formula was changed a couple times when she was hyperkalemic and 
Nepro was started. She also had some intermittent frequent 
stooling with negative c.diff cultures. Cellcept was change to 
500mg qid with some improvement. 

She was extubated on ___. Mental status was slow to improve. 
LFTs were still elevated with t.bili of 16 and rising WBC up to 
35. Blood and urine cultures were sent and all were negative. An 
abdominal/pelvic CT was done with finding of an SMV thrombus. 
Heparin drip was increased with goal of 60-80. A gravity 
cholangiogram was done on ___ which showed no 
leaks/obstruction or stricture. The Broviac tube was capped. On 
___, an MRI of the liver demonstrated volume of 1716 cm3, 
previously 1539 cm3; thrombus RHV.   

The JP drain output continued to be high 600-800cc/day. 
Cellcount on this fluid was negative. Albumin was given 
scheduled ATC. A wound VAC was applied to the incision with 
scheduled changes.  The  On ___,  2 units of pRBC were giveb 
for a Hct of 19.6. Hep gtt was held and repeat Hct was 30.8. 
Heparin gtt was resumed. Another 2 units of prbc were given on 
___ for hct of 22. Of note, she was on ASA/Plavix and heparin 
drip. 

On ___, ___ and ___ were stopped. Fluc was started. She had 
some BRBPR on  ___ with finding of abrasion on ext 
hemorrhoid,no active bleed with stable hct of 22.7, Heparin drip 
was held for a day then resumed. She also had 2 days where the 
wound bled requiring a suture with resolution. VAC was 
reapplied.  

On ___, a liver biopsy was performed. This showed findings 
consistent with a biliary duct issue, either cholestasis or 
ischemic. Given ongoing transaminitis, a repeat liver biopsy was 
done on ___ via a transhepatic approach. The right hepatic 
vein was also dilated. No rejection was noted on the biopsy. 
Vanco and Meropenem were resumed for presumed cholangitis. LFTs 
improved post dilation and with the antibiotics. The plan was 
for 2 weeks of vanco and ___. LFTs continued to improve with T. 
bilirubin down to 1.7. Of note, the TJ biopsy was negative for 
rejection and consistent with a marked biliary ischemic process. 
Viral stains were done as well to r/o infectious etiology. 

Repeat CT of the abdomen on ___ revealed a new region of 
hypoenhancement segment V/VI; stable hypoenhancement. Overall, 
it was felt that she had suffered vascular compromise that lead 
to the anterior liver necrosis. She continued to have abdominal 
pain which was likely r/t the necrotic part of the liver. She 
was given oxycodone for pain with relief.  
 

She continued to be very debilitated with depressed mood. 
Remeron was started. A TSH was also found to be elevated at 15 
on ___. Levothyroxine was increase to 100mcg per day on ___. 


Overall, she was doing better with improved mood and energy on 
___. ___ evaluated and recommended rehab. ___  rehab 
screened and approved her for that facility. 
She did have issues with hyperkalemia for which florinef was 
started. Diet was adjusted to provide only 2grams of potassium. 
On ___, K was 5.8 then 6.1. Kayexalate was given.  
  
Coumadin was started and dose increased for slow increase in 
INR. Goal INR is ___

Patient is ambulating with assistance of a walker. She is 
tolerating the tube feeds now that they are being given 
continuously at a lower volume. Wound VAC is maintaining suction 
and would is starting to granulate.

Discharge to ___

  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cholestyramine 4 gm PO BID 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Furosemide 40 mg PO BID 
4. HydrOXYzine 50 mg PO QHS:PRN itching 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Ondansetron 4 mg PO BID:PRN nausea 
10. Rifaximin 550 mg PO BID 
11. Spironolactone 100 mg PO BID 
12. Temazepam 15 mg PO QHS:PRN insomnia 
13. Ursodiol 600 mg PO QAM 
14. Ursodiol 300 mg PO QPM 
15. Vancomycin Oral Liquid ___ mg PO BID 
16. Ertapenem Sodium 1 g IV 1X Daily 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY  
3.  Dapsone 100 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID:PRN constipation  
5.  Fluconazole 400 mg PO Q24H  
6.  Fludrocortisone Acetate 0.1 mg PO DAILY  
7.  NPH 10 Units Breakfast
NPH 12 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
8.  LevETIRAcetam 750 mg PO BID  
9.  Meropenem 500 mg IV Q8H Duration: 4 Days 
End date ___  
10.  Mycophenolate Mofetil 1000 mg PO BID  
11.  Ondansetron 4 mg IV Q8H:PRN nausea/vomiting  
12.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate  
13.  Pantoprazole 40 mg PO Q12H  
14.  PredniSONE 20 mg PO DAILY 
Tapered dose - DOWN  
15.  Senna 8.6 mg PO QHS  
16.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
17.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
18.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium  
19.  Sucralfate 1 gm PO TID separate from cellcept by 2 hours  
20.  Tacrolimus 2 mg PO Q12H  
21.  ValGANCIclovir 900 mg PO DAILY  
22.  Vancomycin 1000 mg IV Q 12H Duration: 4 Days 
End date ___  
23.  Warfarin 3 mg PO DAILY 
Goal INR ___.  Escitalopram Oxalate 20 mg PO DAILY  
25.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p living liver donor liver transplant ___ 
PSC 
Recurrent cholangitis 
Right liver lobe graft dysfunction due to portal vein steal from 
varices and acute immunologic reaction post transplant 
SMV Thrombus 
Right partial IJ thrombus 
Right Hepatic vein stenosis 
Hypothyroidism 

s/p living liver donor liver transplant ___
PSC
Recurrent cholangitis
Right liver lobe graft dysfunction due to portal vein steal from 
varices and acute immunologic reaction post transplant
SMV Thrombus
Right partial IJ thrombus
Right Hepatic vein stenosis
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, signs of elevated 
INR to include nosebleed, rectal bleeding or dark/tarry stools 
or easy bruising, or any other concerning symptoms.

You will have labwork drawn every ___ and ___ as 
arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, ALT, 
Alk Phos, T Bili, ___, Trough Tacro level. 

****On the days you have your labs drawn, do not take your Tacro 
until your labs are drawn. Bring your Tacro with you so you may 
take your medication as soon as your labwork has been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower.  Coordinate showering with VAC change. Allow the 
water to run over your incision and pat area dry. No rubbing, no 
lotions or powder near the incision. 

VAC dressing, 125 mmHg continuous suction with black foam 
dressing. If VAC malfunction occurs, may place NS damp to dry 
dressing to wound until VAC can be replaced.

Broviac capped drain in place. Place split sponge at exit site 
and change daily. Monitor for drainage, redness at exit site. 
Please be cautious with this tubing as it can pull out very 
easily

No tub baths or swimming
No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure.
Continue tube feeds with continuous feeds via dobhoff feeding 
tube. Please call clinic if tubing becomes dislodged or clogged.

PICC line in place for difficult access. Please provide PICC 
line care with flushes and dressing changes per protocol.

Check your blood sugars and follow insulin regimen. Also check 
blood pressure daily. Report consistently elevated values to the 
transplant clinic

Recheck TSH first week of ___

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant
Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise

 
Followup Instructions:
___